US07790745B2
To a solution of 2-(hydroxymethyl)-6-methylpyridin-3-ol (1.23 g, 8.84 mmol) in acetone (25 mL) was added Me2SO4 (1 mL, 10.6 mmol), followed by Cs2CO3 (3.6 g, 11.05 mmol). The reaction was refluxed for 2 h. The reaction was filtered and concentrated to give a red oil which was purified by column chromatography on ISCO (40 g) with 0-80% ethyl acetate in hexanes over 25 minutes to yield (3-methoxy-6-methylpyridin-2-yl)methanol(1.15 g, 85% yield) as a off-white solid. HPLC retention time (Method B)=0.17 min. 1H NMR (CDCl3, 400 MHz) δ ppm 2.49 (s, 3H), 3.83 (s, 3H), 4.45 (s, 1H), 4.70 (s, 2H), 7.03 (s, 2H).

reactant | 2-(hydroxymethyl)-6-methylpyridin-3-ol | 8.84 mmol, 1.23 g | OCC1=NC(=CC=C1O)C | C7H9NO2
reactant | Me2SO4 | 10.6 mmol, 1 mL | COS(=O)(=O)OC | C2H6O4S
reactant | Cs2CO3 | 11.05 mmol, 3.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | (3-methoxy-6-methylpyridin-2-yl)methanol | 1.15 g, 85% yield | COC=1C(=NC(=CC1)C)CO | C8H11NO2
